datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:62]/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>CC[O:62][C:11]([CH:10](C1=CC=CC=C1)[C:20]([S-:21])=[N:31]C1=CC=C([N+](=O)[O-])C=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"COCC[NH:10]CCOC.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>COCC[NH+:10](CCOC)[C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.CC1=CC=[C:10]([B-:11]23[O:62]CC[N+:82]2(C)CC[O:72]3)O1>>CC1=CC=[C:10]([C:20]2([O-:21])CCSCC2)O1.C[N+:82]12CC[O:62][B:11]1[O:72]CC2 10,11=10,20;20,21=21"
"CC1(C)[O:62][C:11]([O-:12])=[C:10]([I+:72]C2=CC=CC=C2)[C:81](=[O:82])[O:92]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].CC1(C)[O:62][C:11](=[O:12])[C:10]([S:20]C(F)(F)F)([I+:72]C2=CC=CC=C2)[C:81](=[O:82])[O:92]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:62]([NH:61][NH2:10])=[O:63])C=C1.C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>C[O:33][C:22](=[CH:21][CH2:20][NH2+:10][NH:61][C:62](C1=CC=CC=C1)=[O:63])[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C:62]([NH:61][NH2:10])=[O:63])C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([NH2+:10][NH:61][C:62](C2=CC=CC=C2)=[O:63])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.CC1(C)C2CC1[C:11](C)=[CH:10]C2>>CC1(C)C2CC1[C+:11](C)[CH:10]([C:20]1([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]1)C2 10,11=10,20"
"CC[Ge:11](CC)(CC)[H:10].C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>CC[Ge+:11](CC)CC.C[Si](C)(C)C12[C:31]3([CH2:20][H:10])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"CC[Sn:63](CC)(CC)[CH2:62][CH2:11][H:10].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>CC[Sn:63](CC)(CC)[CH2:62][CH2+:11].O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])N2N=N[N:35]=[C:34]21 10,11=10,20;20,21=21,22;22,23=23"
"Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1.Cl[Zn-:11](Cl)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.Cl[Zn:11]Cl.[CH:10]1([F:20])[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2 10,11=10,20;20,21=21"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)=[C:11]([O-:12])[O:82]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10]2(CC3=CC=C([N+](=O)[O-])C=C3)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64]2=[C:63](C=CC=C2)[S:62]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64]2=[C:63](C=CC=C2)[S:62]1)[CH:20]1CCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].C[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C>>CC(C)(C)[O:33][C:22](=[N:21][N:20]([H:10])[C:41](=[O:42])[O:43]C(C)(C)C)[O-:23].C[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[N:12]1CC[N:62](C)[C:11]1=[CH2:10]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11]2=[N+:12](C)CC[N:62]2C)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
